US09422292B2
To a solution of methyl-3-((6-methoxy-3-nitropyridin-2-yl)amino)-2-methylpropanoate (4.0 g, 14.86 mmol) in anhydrous ethanol (50 mL) was added iron powder reduced (8.30 g, 148.56 mmol) and acetic acid (17.84 g, 297.12 mmol). The mixture was stirred at 90° C. for 12 hours. The reaction mixture was neutralized to pH 8 with solid sodium hydrogencarbonate, concentrated in vacuo and washed with water (20 mL), filtered. The filtrate was extracted with acetic ester (200 mL×3). The combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph silica gel (elute: dichloromethane/Methanol: 80:1→50:1) to give 7-methoxy-3-methyl-4,5-dihydro-1H-pyrido[2,3-b][1,4]diazepin-2(3H)-one (3 g, 96%) as a yellow solid.

reactant | methyl-3-((6-methoxy-3-nitropyridin-2-yl)amino)-2-methylpropanoate | 14.86 mmol, 4.0 g | COC(C(CNC1=NC(=CC=C1[N+](=O)[O-])OC)C)=O | C11H15N3O5
reactant | acetic acid | 297.12 mmol, 17.84 g | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
product | 7-methoxy-3-methyl-4,5-dihydro-1H-pyrido[2,3-b][1,4]diazepin-2(3H)-one | 3 g, 96% | COC=1C=CC2=C(NCC(C(N2)=O)C)N1 | C10H13N3O2
